US04166734
N-(acetyloxy)-N-methyl-2-(4-methyl-2,6-dinitrophenylamino)propanamide (1)
3 g of N-hydroxy-N-methyl-2-(4-methyl-2,6-dinitrophenylamino)propanamide and 0.82 g of N-acetyl-N'-methylimidazole were added to a stirred suspension in 0.8 g of methylene chloride for 3 hours. The resulting mixture was poured into water. The methylene chloride layer was washed, dried over MgSO4, and evaporated to give a yellow residue which was recrystallized from ethanol to yield 1.4 g (41% yield) of product; m.p. 137-138° C., (d,1) isomer form.

reactant | N-hydroxy-N-methyl-2-(4-methyl-2,6-dinitrophenylamino)propanamide | 3 g | ON(C(C(C)NC1=C(C=C(C=C1[N+](=O)[O-])C)[N+](=O)[O-])=O)C | C11H14N4O6
reactant | N-acetyl-N'-methylimidazole | 0.82 g | C(C)(=O)N1CN(C=C1)C | C6H10N2O
reactant | water | O | H2O
solvent | methylene chloride | 0.8 g | C(Cl)Cl | CH2Cl2
product | N-(acetyloxy)-N-methyl-2-(4-methyl-2,6-dinitrophenylamino)propanamide | 1.4 g, 41% yield | C(C)(=O)ON(C(C(C)NC1=C(C=C(C=C1[N+](=O)[O-])C)[N+](=O)[O-])=O)C | C13H16N4O7
